US04214004
A mixture of 5-(2-fluorophenyl)-3-methyl-2-cyclohexen-1-ol (16.6 g, 0.08 mole) and sulfur (7.8 g, 0.24 mole) was heated at 180°-230° for 7.5 hours. The reaction mixture then stood at room temperature for approximately 60 hours before it was distilled under reduced pressure to give 2'-fluoro-3-methyl[1,1'-biphenyl].

reactant | 5-(2-fluorophenyl)-3-methyl-2-cyclohexen-1-ol | 0.08 mole, 16.6 g | FC1=C(C=CC=C1)C1CC(=CC(C1)O)C | C13H15FO
reactant | sulfur | 0.24 mole, 7.8 g | [S] | S
product | 2'-fluoro-3-methyl[1,1'-biphenyl] | FC1=C(C=CC=C1)C1=CC(=CC=C1)C | C13H11F
